US08686002B2
6,7-Difluoro-3-(2-methoxybenzyl)quinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-amino-4,5-difluorobenzaldehyde and 3-(2-methoxyphenyl)propionitrile.

reactant | 2-amino-4,5-difluorobenzaldehyde | NC1=C(C=O)C=C(C(=C1)F)F | C7H5F2NO
reactant | 3-(2-methoxyphenyl)propionitrile | COC1=C(C=CC=C1)CCC#N | C10H11NO
product | 6,7-Difluoro-3-(2-methoxybenzyl)quinolin-2-amine | FC=1C=C2C=C(C(=NC2=CC1F)N)CC1=C(C=CC=C1)OC | C17H14F2N2O
